US03954868
1,4-Dibenzoylbenzene is prepared essentially as described by Noelting and Kohn, Ber. 19, 147 (1886). Terephthaloyl dichloride (20.3 g, 0.1 mole) is dissolved in benzene (350 ml) and anhydrous aluminum chloride (30 g, 0.22 mole) is added. The mixture is heated at 70° for 7 hours, cooled to 20° and maintained at this temperature for 18 hours with continual stirring. The reaction mixture is then added to 1 l crushed ice and 20 ml 37% hydrochloric acid. The benzene solution is washed three times with water and twice with sodium bicarbonate solution. The excess benzene is removed by distillation. The resulting crystalline material is recrystallized from dimethylformamide, yield 22 g (76% of theory) white crystals mp 158°-9° .

reactant | Terephthaloyl dichloride | 0.1 mole, 20.3 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | aluminum chloride | 0.22 mole, 30 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | benzene | 350 ml | C1=CC=CC=C1 | C6H6
product | 1,4-Dibenzoylbenzene | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C20H14O2
